US07902226B2
7-fluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
A mixture of ethyl 7-fluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-1,4-dihydro-4-oxoquinoline-3-carboxylate (4.08 g, 13.9 mmol), acetic acid (9 ml) and concentrated hydrochloric acid (9 ml) was heated under reflux for 21 hour. After cooling the reaction solution with ice, ice water (50 ml) was poured into the reaction solution, the precipitated crystals were filtered out, and after washing with excess water, a small amount of cold ethanol and excess diethyl ether, the crystals were dried under a reduced pressure at 80° C. for 16 hours. 3.51 g (95%) of the title compound was thereby obtained in the form of a white powder.

reactant | ethyl 7-fluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-1,4-dihydro-4-oxoquinoline-3-carboxylate | 13.9 mmol, 4.08 g | FC1=CC=C2C(C(=CN(C2=C1)[C@H]1[C@H](C1)F)C(=O)OCC)=O | C15H13F2NO3
reactant | hydrochloric acid | 9 ml | Cl | ClH
solvent | acetic acid | 9 ml | C(C)(=O)O | C2H4O2
product | 7-fluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 3.51 g, 95% | FC1=CC=C2C(C(=CN(C2=C1)[C@H]1[C@H](C1)F)C(=O)O)=O | C13H9F2NO3
